US04684748
3,5-Dimethyl-N-[(2-methylphenyl)methyl]-4-nitrobenzamide
A solution of 3,5-dimethyl-4-nitrobenzoyl chloride in tetrahyrofuran, generated from 7.0 g of 3,5-dimethyl-4-nitrobenzoic acid by standard procedures, was added to 4.3 g of 2-methylbenzyl amine and 5.0 ml of triethylamine in tetrahydrofuran. The reaction was stirred at ambient temperature overnight, chilled, and filtered. The filtrate was evaporated in vacuo and the residue therefrom was dissolved in chloroform, washed sequentially with 1N hydrochloric acid, 1N sodium hydroxide, water, and a saturated sodium chloride solution, dried over sodium sulfate, filtered, and evaporated in vacuo. Crystallization from methanol/water provided 4.7 g of the desired title product, m.p. 202°-203° C.

reactant | 3,5-dimethyl-4-nitrobenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1[N+](=O)[O-])C | C9H8ClNO3
reactant | 3,5-dimethyl-4-nitrobenzoic acid | 7.0 g | CC=1C=C(C(=O)O)C=C(C1[N+](=O)[O-])C | C9H9NO4
reactant | 2-methylbenzyl amine | 4.3 g | CC1=C(CN)C=CC=C1 | C8H11N
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahyrofuran | O1CCCC1 | C4H8O
product | 3,5-Dimethyl-N-[(2-methylphenyl)methyl]-4-nitrobenzamide | 4.7 g | CC=1C=C(C(=O)NCC2=C(C=CC=C2)C)C=C(C1[N+](=O)[O-])C | C17H18N2O3
